US04220647
1-(p-Toluidinomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride (260 mg) was converted into the free amine compound by conventional methods. The amine compound was dissolved in anhydrous dichloromethane (10 ml) and to the solution was dropwise added at -50° C. anhydrous dichloromethane (5 ml) containing boron tribromide (340 mg). The mixture was stirred for 14 hours at the same temperature and the reaction temperature was gradually elevated to 8° C. The reaction mixture was concentrated to dryness under reduced pressure and the residue obtained was crystallized with acetone. The crystals were further recrystallized from a mixture of isopropyl alcohol and ether to give 1-(p-toluidinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, mp 211° to 213° C. The product was identified by means of comparison with an authentic sample required by another process by its infrared absorption spectrum and nuclear magnetic resonance spectrum.

reactant | 1-(p-Toluidinomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 260 mg | Cl.Cl.C1(=CC=C(C=C1)NCC1NCCC2=CC(=C(C=C12)OC)OC)C
reactant | boron tribromide | 340 mg | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(p-toluidinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | Br.Br.C1(=CC=C(C=C1)NCC1NCCC2=CC(=C(C=C12)O)O)C | InChI=1S/C17H20N2O2.2BrH/c1-11-2-4-13(5-3-11)19-10-15-14-9-17(21)16(20)8-12(14)6-7-18-15;;/h2-5,8-9,15,18-21H,6-7,10H2,1H3;2*1H
